US05441969
2-Amino-1-]3(2-thienyl)phenyl]-5-trifluoromethylbenzimidazole was prepared from 1-(2-amino-5-trifluoromethyl-1-benzimidazolyl)-3-iodobenzene and 2-thienylboronic acid according method B. mp 89°-91° C.

reactant | 1-(2-amino-5-trifluoromethyl-1-benzimidazolyl)-3-iodobenzene | NC1=NC2=C(N1C1=CC(=CC=C1)I)C=CC(=C2)C(F)(F)F | C14H9F3IN3
reactant | 2-thienylboronic acid | S1C(=CC=C1)B(O)O | C4H5BO2S
product | 5-trifluoromethylbenzimidazole | FC(C1=CC2=C(N=CN2)C=C1)(F)F | C8H5F3N2
